US07550459B2
3-(2-Hydroxyethylidene)-8-azabicyclo[3.2.1]octane-8-carboxylic acid t-butyl ester
A reaction flask was charged with 3-ethoxycarbonylmethylene-8-azabicyclo[3.2.1]octane-8-carboxylic acid t-butyl ester (2.70 g, 9.1 mmol) in dry THF (15 mL) under Argon. The solution was cooled to −78° and DIBAL-H (1.5 M in toluene, 13.7 mL, 20.5 mmol) was added dropwise over 20 min. The reaction was stirred at −78° for 1 h then the temperature was raised to rt. The reaction mixture was added i-propanol (5 mL) and stirred at rt for 5 min followed by addition of water (10 mL). DCM was added and the suspension was stirred at rt for 15 min. The suspension was filtered and the collected organic phase was dried over Na2SO4, filtered, and concentrated. The product was purified by flash column chromatography (SiO2; n-heptane/EtOAc 1:1; EtOAc) to give the title compound (1.908 g, 82%). 1H NMR (CDCl3) d 5.57-5.51 (m, 1H), 4.24-4.17 (m, 2H), 4.36-4.06 (m, 2H), 2.54-2.46 (m, 1H), 2.40-2.34 (m, 1H), 2.24-2.18 (m, 1H), 2.01-1.96 (m, 1H), 1.90-1.78 (m, 3H), 1.60-1.46 (m, 2H), 1.45 (s, 9H).

reactant | 3-ethoxycarbonylmethylene-8-azabicyclo[3.2.1]octane-8-carboxylic acid t-butyl ester | 9.1 mmol, 2.70 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=CC(=O)OCC | C16H25NO4
reactant | DIBAL-H | 20.5 mmol, 1.5 M, 13.7 mL | CC(C)C[AlH]CC(C)C
reactant | i-propanol | 5 mL | C(C)(C)O | C3H8O
reactant | water | 10 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(2-Hydroxyethylidene)-8-azabicyclo[3.2.1]octane-8-carboxylic acid t-butyl ester | 1.908 g, 82% | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=CCO | C14H23NO3
